US05591862
Sodium hydride (60% in oil, 0.32 g) was added, in small portions at 0° C., to a solution of diethyl cyanomethylphosphonate (1.3 g) in tetrahydrofuran (50 ml). The mixture was stirred for 15 minutes at the same temperature, to which was then added 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamoaldehyde (2.0 g), followed by stirring for 30 minutes under ice-cooling. The reaction mixture was poured into water, which was subjected to extraction with ethyl acetate. The ethyl acetate layer was washed with water and dried (MgSO4), which was then concentrated to give (E,E)-5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadienenitrile (1.5 g, 68%). Recrystallization of the product from ethyl acetate--hexane afforded colorless needles, m.p.120°-121° C.

reactant | Sodium hydride | 0.32 g | [H-].[Na+]
reactant | diethyl cyanomethylphosphonate | 1.3 g | C(#N)CP(OCC)(OCC)=O | C6H12NO3P
reactant | 4-(5-methyl-2-phenyl-4-oxazolylmethoxy)cinnamoaldehyde | 2.0 g | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=CC=O)C=C1 | C20H17NO3
reactant | water | O | H2O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | (E,E)-5-[4-(5-methyl-2-phenyl-4-oxazolylmethoxy)phenyl]-2,4-pentadienenitrile | 1.5 g, 68% | CC1=C(N=C(O1)C1=CC=CC=C1)COC1=CC=C(C=C1)/C=C/C=C/C#N | C22H18N2O2
